US08440694B2
0.088 g of 5-(3-(3-fluorophenylsulfonyl)quinolin-8-yl)octahydropyrrolo[3,4-b]pyrrol-1-ium chloride were prepared by analogy to the methods of Examples 27 and 28 by coupling of 3-(3-fluorophenylsulfonyl)-8-iodoquinoline with 1-(tert-butoxycarbonyl)-octahydropyrrolo[2,3-c]pyrrol-5-ium chloride and subsequent deprotection of the tert-butyl-oxycarbonyl derivative with HCl in isoproanol.

reactant | 3-(3-fluorophenylsulfonyl)-8-iodoquinoline | FC=1C=C(C=CC1)S(=O)(=O)C=1C=NC2=C(C=CC=C2C1)I | C15H9FINO2S
reactant | 1-(tert-butoxycarbonyl)-octahydropyrrolo[2,3-c]pyrrol-5-ium chloride | [Cl-].C(C)(C)(C)OC(=O)N1CCC2C1C[NH2+]C2
reactant | HCl | Cl | ClH
product | 5-(3-(3-fluorophenylsulfonyl)quinolin-8-yl)octahydropyrrolo[3,4-b]pyrrol-1-ium chloride | 0.088 g | [Cl-].FC=1C=C(C=CC1)S(=O)(=O)C=1C=NC2=C(C=CC=C2C1)N1CC2[NH2+]CCC2C1 | InChI=1S/C21H20FN3O2S.ClH/c22-16-4-2-5-17(10-16)28(26,27)18-9-14-3-1-6-20(21(14)24-11-18)25-12-15-7-8-23-19(15)13-25;/h1-6,9-11,15,19,23H,7-8,12-13H2;1H
